US06251926B1
A mixture of ethyl 4-methoxyphenylglyoxylate (15.0 g), hydroxylamine hydrochloride (6.00 g), sodium acetate (8.86 g) and ethanol (150 ml) was heated under reflux for 12 hours. The reaction mixture was concentrated, and the residue was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and then concentrated. The residue was subjected to column chromatography on silica gel and ethyl Z-2-hydroxyimino-2-(4-methoxyphenyl)acetate (8.99 g, yield 56%) was obtained as crystals from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless crystals. m.p. 81-82° C.

reactant | ethyl 4-methoxyphenylglyoxylate | 15.0 g | COC1=CC=C(C=C1)C(C(=O)OCC)=O | C11H12O4
reactant | hydroxylamine hydrochloride | 6.00 g | Cl.NO
reactant | sodium acetate | 8.86 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl Z-2-hydroxyimino-2-(4-methoxyphenyl)acetate | 8.99 g, yield 56% | O\N=C(/C(=O)OCC)\C1=CC=C(C=C1)OC | C11H13NO4
